### PR TITLE
Add Erdős Problem 29 (thin additive bases with subpolynomial representation function), link the formal proof

### LINKED ISSUE #6161: Erdős Problem 29
### What is the Erdős problem?

https://www.erdosproblems.com/29

Is there an explicit construction of a set $A\subseteq \mathbb{N}$ such that $A+A=\mathbb{N}$ but $1_A\ast 1_A(n)=o(n^\epsilon)$ for every $\epsilon>0$?

Status: proved (Lean). Existence is due to Erdős (probabilistic); an explicit construction was given by Jain–Pham–Sawhney–Zakharov. A formal proof (an explicit construction) exists in plby/lean-proofs (`Erdos29.erdos_29`, Codex and GPT-5.6 Sol). The repository's `sumRep` is exactly $1_A \ast 1_A$.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6161.

### What changed
Adds `FormalConjectures/ErdosProblems/29.lean` with `erdos_29` (`research solved`, `answer(True)`): there is `A ⊆ ℕ` with `A + A = ℕ` and `sumRep A n = o(n^ε)` for every `ε > 0` (the house `sumRep` is `1_A ∗ 1_A`). The problem asks for an explicit construction (Jain–Pham–Sawhney–Zakharov [JPSZ24]); the formal statement records existence and the linked proof, plby/lean-proofs `Erdos29.erdos_29` (Codex and GPT-5.6 Sol; 9 Mathlib-only files), is an explicit construction.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos29.erdos_29` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (`sumRep_def` is plby's `addRepCount`):

<details>
<summary>Bridge</summary>

```lean
open AdditiveCombinatorics

lemma sumRep_eq (A : Set ℕ) (n : ℕ) : sumRep A n = Erdos29Plby.addRepCount A n := by
  classical
  rw [sumRep_def, Erdos29Plby.addRepCount]

theorem erdos_29_bridge : type_of% Erdos29.erdos_29 := by
  show True ↔ _
  simp only [true_iff]
  obtain ⟨A, hA, h⟩ := Erdos29Plby.erdos_29
  refine ⟨A, hA, fun ε hε => ?_⟩
  simpa only [sumRep_eq] using h ε hε
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«29»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/29.lean [hunk 1]
```diff
@@ -0,0 +1,62 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/29.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
